US08492568B2
Step 1: 6-Chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-one
To a stirred solution of 5′-chloro-2′-hydroxy acetophenone (5.0 g, 29.308 mmol) in methanol (50 ml) was added pyrrolidine (4.16 g, 58.616 mmol) followed by cyclobutanone (4.1 g, 58.616 mmol) at room temperature. The reaction mixture was heated to reflux under nitrogen for 14 h. The solvent was evaporated under reduced pressure and the residue obtained was diluted with water (100 ml) and the mixture was acidified to pH 4.0. The mixture was extracted with chloroform (3×100 ml). The combined organic extracts were washed with water (100 ml), brine (50 ml) and dried over anhydrous sodium sulfate. The residue obtained after evaporation of the solvent was purified by silica gel column chromatography using 15% ethyl acetate in petroleum ether to give 6.3 g of the product as a white solid; 1H NMR (300 MHz, CDCl3) δ 1.69-1.88 (m, 5H), 1.96-2.04 (m, 1H), 2.88 (s, 2H), 6.91 (d, J=9.0 Hz, 1H), 7.38 (d, J=6.6 Hz, 1H), 7.76 (s, 1H).

reactant | 5′-chloro-2′-hydroxy acetophenone | 29.308 mmol, 5.0 g | ClC=1C=CC(=C(C1)C(C)=O)O | C8H7ClO2
reactant | pyrrolidine | 58.616 mmol, 4.16 g | N1CCCC1 | C4H9N
reactant | cyclobutanone | 58.616 mmol, 4.1 g | C1(CCC1)=O | C4H6O
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 6-Chlorospiro[chromene-2,1′-cyclobutan]-4(3H)-one | 6.3 g | ClC=1C=C2C(CC3(CCC3)OC2=CC1)=O | C12H11ClO2
